US06235900B1
Step A. 2-Bromo-4-fluorobenzoyl chloride
A suspension of 2-bromo-4-fluorobenzoic acid (6.87 g, 31.37 mmol) in dichloromethane (70 mL) containing a few drops of dimethylformamide was treated dropwise under nitrogen with a 2M solution of oxalyl chloride in dichloromethane (1.16 equivalents). After gas evolution subsided, the reaction mixture was refluxed for an additional 25 minutes and then the solution was evaporated to dryness in vacuo. The crude acid chloride was used as such in the next step.

reactant | 2-bromo-4-fluorobenzoic acid | 31.37 mmol, 6.87 g | BrC1=C(C(=O)O)C=CC(=C1)F | C7H4BrFO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 1.16 equivalents | ClCCl | CH2Cl2
product | 2-Bromo-4-fluorobenzoyl chloride | BrC1=C(C(=O)Cl)C=CC(=C1)F | C7H3BrClFO
